US06372777B1
Preparation of 1-(3-Chlorophenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
m-Chloroaniline (5 mmol, 0.6 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (5 mmol, 12 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. Upon completion of the reaction, the crude solid was recrystallized from ethanol to provide the named product (m.p. 93.2° C.-94.6° C.).

reactant | m-Chloroaniline | 5 mmol, 0.6 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 5 mmol, 12 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Chlorophenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C20H18ClNO2
